US07781454B2
Step 7: 2,5-dichloro-3-[(5-chloro-1H-1,2,3-benzotriazol-4-yl)oxy]benzonitrile
4-(3-bromo-2,5-dichlorophenoxy)-5-chloro-1H-1,2,3-benzotriazole (2.55 g, 6.49 mmol), tetrakis triphenylphosphine palladium(0) (2.25 g, 1.95 mmol) and zinc cyanide (0.915 g, 7.79 mmol) were suspended in dry DMF (50 mL) under N2 and placed in an oil bath at 90° C. for 24 hours, after which the reaction mixture was allowed to cool to room temperature. The cooled mixture was then diluted with EtOAc (200 mL) and washed with water (4×100 mL), the aqueous layer was extracted with EtOAc (100 mL) and then washed with water (4×50 mL). The combined organic extracts were dried (MgSO4), filtered and concentrated with silica gel. The concentrate was purified by automated column chromatography on silica gel (40 g) eluting with 0-30% EtOAc/hexanes to afford the title compound. LRMS (M+1)=340.16.

reactant | 4-(3-bromo-2,5-dichlorophenoxy)-5-chloro-1H-1,2,3-benzotriazole | 6.49 mmol, 2.55 g | BrC=1C(=C(OC2=C(C=CC=3NN=NC32)Cl)C=C(C1)Cl)Cl | C12H5BrCl3N3O
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
catalyst | zinc cyanide | 7.79 mmol, 0.915 g | [C-]#N.[Zn+2].[C-]#N
product | 2,5-dichloro-3-[(5-chloro-1H-1,2,3-benzotriazol-4-yl)oxy]benzonitrile | ClC1=C(C#N)C=C(C=C1OC1=C(C=CC=2NN=NC21)Cl)Cl | C13H5Cl3N4O
